US05538976
3-[N-(4-Bromobenzyl)-N-(4-cyanophenyl)amino]pyridazine Starting compounds:
3-[(4-Cyanophenyl)amino]pyridazine and 4-bromobenzyl bromide

reactant | 3-[(4-Cyanophenyl)amino]pyridazine | C(#N)C1=CC=C(C=C1)NC=1N=NC=CC1 | C11H8N4
reactant | 4-bromobenzyl bromide | BrC1=CC=C(CBr)C=C1 | C7H6Br2
product | 3-[N-(4-Bromobenzyl)-N-(4-cyanophenyl)amino]pyridazine | BrC1=CC=C(CN(C2=CC=C(C=C2)C#N)C=2N=NC=CC2)C=C1 | C18H13BrN4
